US05679696
A solution of 3-cyclopentyloxy-4-benzyloxybenzoic acid (5.1 g; that is prepared as described in Reference Example 38) in methanol (150 mL) and concentrated sulfuric acid (1 mL) is heated at reflux for 6 hours, and then it is cooled and concentrated in vacuo. The resulting residue is treated with ethyl acetate (150 mL) and saturated aqueous sodium bicarbonate solution (50 mL). The organic layer is collected, dried and evaporated. The resulting oil is subjected to flash chromatography on silica gel, using a mixture of ethyl acetate and pentane (1:4 v/v) as eluent, to give methyl 3-cyclopentyloxy-4-benzyloxybenzoate (4.8 g), in the form of a white solid, m.p. 58°-59° C.

reactant | 3-cyclopentyloxy-4-benzyloxybenzoic acid | C1(CCCC1)OC=1C=C(C(=O)O)C=CC1OCC1=CC=CC=C1 | C19H20O4
reactant | sulfuric acid | 1 mL | S(O)(O)(=O)=O | H2O4S
reactant | methanol | 150 mL | CO | CH4O
product | methyl 3-cyclopentyloxy-4-benzyloxybenzoate | 4.8 g | C1(CCCC1)OC=1C=C(C(=O)OC)C=CC1OCC1=CC=CC=C1 | C20H22O4
